US07291631B2
Using General Procedure B, FCH2CH2NH2HCl, 4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyraldehyde, Et3N and NaBH(OAc)3 gave a pale yellow oil. A mixture of the oil, Boc2O, Et3N in CH2Cl2 was stirred for 2 h. Aqueous workup and purification gave (2-fluoro-ethyl)-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-carbamic acid tert-butyl ester as a pale yellow oil. Deprotection with NH2NH2.H2O using General Procedure E gave (4-Amino-butyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester as a colorless oil. 1H NMR (CDCl3) δ 1.24-1.62 (m, 13H), 2.71 (t, 2H, J=6.9 Hz), 3.24-3.30 (m, 2H), 3.44-3.52 (m, 2H), 4.40-4.48 (m, 1H), 4.56-4.64 (m, 1H).

reactant | FCH2CH2NH2HCl | FCCN.Cl
reactant | 4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyraldehyde | O=C1N(C(C2=CC=CC=C12)=O)CCCC=O | C12H11NO3
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Et3N | CCN(CC)CC | C6H15N
product | (2-fluoro-ethyl)-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCCCN1C(C2=CC=CC=C2C1=O)=O)CCF)=O | C19H25FN2O4
